US05430041
220 mg (0.59 mmol) of pyridinium dichromate were added to a solution of 48 mg (0.08 mmol) of 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-L-valyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide in 1 ml of dimethylformamide and the mixture was stirred at room temperature for 18 hours. 10 ml of water were added and the mixture was extracted with two 10 ml portions of ethyl acetate. The combined extracts were washed with two 10 ml portions of water, dried over anhydrous magnesium sulphate and evaporated. The crude product was chromatographed on a column of silica gel using 4% methanol in dichloromethane for the elution to give 31 mg of 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-L-valyl]amino]-2-oxo-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide as a white solid of melting point 186°-188° C.; MS m/e 578 [M+H]+.

reactant | pyridinium dichromate | 0.59 mmol, 220 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-L-valyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 0.08 mmol, 48 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C34H49N3O5
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-L-valyl]amino]-2-oxo-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 31 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](C(C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)=O)CC1=CC=CC=C1 | C34H47N3O5
